* source PRE-AMP-DISCRET
.EXTERNAL OUTPUT INPUT
.EXTERNAL OUTPUT -15V
.EXTERNAL OUTPUT +15V
.EXTERNAL OUTPUT OUTPUT
R_R18         N15026 N14894  220 TC=0,0 
R_R19         N15026 N14890  220 TC=0,0 
R_R13         0 N14847  10k TC=0,0 
C_C1         N14836 N52800  3.3u  TC=0,0 
V_V3         0 N15026 15Vdc
V_V1         N15461 0 15Vdc
R_R7         N60156 N14929  180 TC=0,0 
R_R8         N60160 N14929  180 TC=0,0 
Q_Q6         N14929 N15435 N49560 BC860C 
R_R1         N49560 N15461  150 TC=0,0 
R_R6         0 N15435  10k TC=0,0 
V_V2         N14836 0  AC 1V
+SIN 0V 0.1V 1kHz 0 0 0
Q_Q8         0 N51839 N15214 BC850C 
Q_Q11         N15258 N15214 N51491 BC850C 
R_R16         N15026 N15214  1k TC=0,0 
R_R14         0 N15626  4.7k TC=0,0 
R_R11         N15626 N15369  10k TC=0,0 
R_R3         N53475 N15461  40.2 TC=0,0 
R_R20         INPUT N48306  160k TC=0,0 
C_C3         N48306 0  1u  TC=0,0 
X_U3         N48306 N48500 +15V -15V OUTPUT OPA188
D_D2         -15V N48306 D1N4148_1 
C_C4         N48500 OUTPUT  1u  TC=0,0 
R_R21         0 N48500  160k TC=0,0 
D_D1         N48306 +15V D1N4148_1 
R_R12         N15369 INPUT  47 TC=0,0 
R_R15         0 INPUT  47k TC=0,0 
R_R9         0 OUTPUT  47k TC=0,0 
Q_Q3         N15435 N49560 N15461 BC860C 
R_R17         N15026 N51491  56 TC=0,0 
R_R10         N14847 N52800  470R TC=0,0 
C_C2         0 N14847  33p  TC=0,0 
Q_Q2         N53311 N53475 N15461 BC860C 
R_R5         0 N53311  10k TC=0,0 
R_R2         N53764 N15461  75 TC=0,0 
Q_Q4         N15258 N53830 N53764 BC860C 
Q_Q1         N53830 N53764 N15461 BC860C 
R_R4         0 N53830  10k TC=0,0 
Q_Q10         N51258 N51258 N14908 BC850C 
Q_Q9         N51839 N51258 N14898 BC850C 
Q_Q12         N14898 N14898 N14894 BC850C 
Q_Q13         N14908 N14898 N14890 BC850C 
Q_Q7         N15026 N15258 N15369 Q2N5401C 
Q_Q14         N51258 N15626 N60160 BC860C 
Q_Q15         N51839 N14847 N60156 BC860C 
Q_Q16         N15369 N53311 N53475 Q2N5401C 
C_C5         N51839 N15369  100pF  TC=0,0 
.IC         V(OUTPUT )=0
.IC         V(N48306 )=0
